US05200416
2-(3'-Mercapto-2'-methylpropanoyl)-1-phenyl-3-carbomethoxy-1,2,3,4-tetrahydro-β-carboline
2-(3'Acetylthio-2'-methylpropanoyl)-1-phenyl-3-carbomethoxy-1,2,3,4-tetrahydro-β-carboline (2 g, 0.045 mole) was dissolved in methanol (75 ml) and anhydrous ammonia was bubbled through the solution for 15 minutes. The reaction was placed under nitrogen and stirring was continued at room temperature for one hour. The methanol was evaporated and the residue was applied to a cation exchange column (methanol). The methanol was evaporated and the residue was dissolved in chloroform, washed with water, dried over magnesium sulfate, filtered and evaporated to give the product as a colorless oil (1.6 g, 88%).

reactant | 2-(3'Acetylthio-2'-methylpropanoyl)-1-phenyl-3-carbomethoxy-1,2,3,4-tetrahydro-β-carboline | 0.045 mole, 2 g | C(C)(=O)SCC(C(=O)N1C(C=2NC3=CC=CC=C3C2CC1C(=O)OC)C1=CC=CC=C1)C | C25H26N2O4S
solvent | methanol | 75 ml | CO | CH4O
product | 2-(3'-Mercapto-2'-methylpropanoyl)-1-phenyl-3-carbomethoxy-1,2,3,4-tetrahydro-β-carboline | 1.6 g, 88% | SCC(C(=O)N1C(C=2NC3=CC=CC=C3C2CC1C(=O)OC)C1=CC=CC=C1)C | C23H24N2O3S
